US04336397
Methyl 2,4-dioxo-4-(4-nonylphenyl)-1-butanoate
In 15 ml of dry benzene there was suspended 1.124 g (20.8 mMol) of sodium methoxide, and the mixture was cooled. The reaction was carried out under nitrogen. To the reaction mixture there was then added 4.92 g (20 mMol) of 4-nonylacetophenone and 2.36 g (20 mMol) of dimethyl oxalate in 25 ml of benzene. The reaction mixture was stirred at room temperature for 1 hour, and then 50 ml of ether, 16 ml of 2 N hydrochloric acid, and 4 ml of water were added, followed by stirring for an additional hour. The ether layer was separated and the aqueous layer was washed three times with 15 ml of ether. The ether layers were combined and washed five times with 10 ml of water, and three times with 10 ml of saturated sodium chloride solution. The ether layer was then dried over magnesium sulfate and evaporated, giving 6.86 g of crude product. This was crystallized from boiling petroleum ether, giving 3.45 g in the first crop, m.p. 55°-57° C.; and 1.1 g in the second crop, m.p. 52°-53.5° C. Analysis:

reactant | sodium methoxide | 20.8 mMol, 1.124 g | C[O-].[Na+]
reactant | 4-nonylacetophenone | 20 mMol, 4.92 g | CCCC(CCCCC)CC(=O)C1=CC=CC=C1 | C17H26O
reactant | dimethyl oxalate | 20 mMol, 2.36 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | hydrochloric acid | 2 N, 16 ml | Cl | ClH
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | water | 4 ml | O | H2O
product | Methyl 2,4-dioxo-4-(4-nonylphenyl)-1-butanoate | 6.86 g | O=C(C(=O)OC)CC(C1=CC=C(C=C1)CCCCCCCCC)=O | C20H28O4
